### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): transvection matrix is block triangular

### PR DESCRIPTION
**Pull request by shuxuezhuyi**
Co-authored-by: Eric Wieser <wieser.eric@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean [hunk 1]
```diff
@@ -0,0 +1,77 @@
...
+
+variable [CommRing R]
+
+section BlockTriangular
+
+variable {α : Type*} (b : n → α)
+
+theorem blockTriangular_id  [Preorder α] : BlockTriangular (1 : Matrix n n R) b := by
+  rw [← @diagonal_one]
+  exact blockTriangular_diagonal fun _ ↦ 1
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean:41]: I'm surprised this lemma is missing! Could you move it right below `blockTriangular_diagonal` in `Mathlib.LinearAlgebra.Matrix.Block`?

File: Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean [hunk 2]
```diff
@@ -0,0 +1,77 @@
...
+
+theorem blockTriangular_Single [LinearOrder α] (i j : n) (c : R) :
+    BlockTriangular (Single i j c) b ∨
+    BlockTriangular (Single i j c) (OrderDual.toDual ∘ b) := by
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean:45]: I think it would be helpful to split this into two lemmas; one that assumes `b i ≤ b j`, and one the other way around. Can you restate this in terms of `stdBasisMatrix` instead?

File: Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean [hunk 3]
```diff
@@ -0,0 +1,77 @@
...
+      intro hr hs
+      rw [hr, hs] at hrs
+      exact h.trans hrs |>.false.elim
+
+theorem blockTriangular_Elementary [LinearOrder α] (i j : n) (c : R) :
+    BlockTriangular (Elementary i j c) b ∨
+    BlockTriangular (Elementary i j c) (OrderDual.toDual ∘ b) :=
+  (blockTriangular_Single b i j c).imp
+    (BlockTriangular.add <| blockTriangular_id b)
+    (BlockTriangular.add <| blockTriangular_id <| OrderDual.toDual ∘ b)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/ElementaryMatrix.lean:75]: This one should be stated using `Matrix.transvection`, but the proof looks good!

**Review by eric-wieser — COMMENTED** [review]
Thanks for this! Unfortunately there's a fair amount of overlap with existing results in mathlib across this chain of PRs, but this one in particular has some useful results that look new.

**Comment by shuxuezhuyi** [comment]
I'm sorry that I didn't search mathlib carefully enough. Now I've rewritten the code.

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 4]
```diff
@@ -120,6 +120,38 @@ theorem blockTriangular_blockDiagonal [DecidableEq α] (d : α → Matrix m m R)
...
+  by_cases h : b i = b j
+  · unfold BlockTriangular stdBasisMatrix
+    aesop
+  · push_neg at h
+    intro r s hrs
+    unfold stdBasisMatrix
+    simp only [of_apply, ite_eq_right_iff, and_imp]
+    intro hr hs
+    rw [← hr, ← hs] at hrs
+    exact hij.trans_lt hrs |>.false.elim
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean:140]: Here's a shorter proof:

```suggestion
  intro r s hrs
  apply StdBasisMatrix.apply_of_ne
  rintro ⟨rfl, rfl⟩
  exact (hij.trans_lt hrs).false
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 5]
```diff
@@ -120,6 +120,31 @@ theorem blockTriangular_blockDiagonal [DecidableEq α] (d : α → Matrix m m R)
   exact h
 #align matrix.block_triangular_block_diagonal Matrix.blockTriangular_blockDiagonal
 
+variable [DecidableEq m]
+
+theorem blockTriangular_one : BlockTriangular (1 : Matrix m m R) b := by
+  rw [← @diagonal_one]
+  exact blockTriangular_diagonal fun _ ↦ 1
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Block.lean:127]: Or even shorter!
```suggestion
theorem blockTriangular_one : BlockTriangular (1 : Matrix m m R) b :=
  blockTriangular_diagonal _
```

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks! Sorry that you ended up wasting some time writing your own version of `transvection`, but hopefully it was a good learning experience even if it ultimately wasn't PR-able!

**Comment by eric-wieser** [comment]
bors merge
